US05807886
5-Nitro-2-indanone (1.48 g, 8.36 mmol), benzylamine (4.40 ml, 41.8 mmol), acetic acid (15.0 ml), 4 Å molecular sieves (20 ml), THF (15 ml), and MeOH (15 ml) were introduced into a flask and cooled to 0° C. Sodium cyanoborohydride (1.05 g, 16.7 mmol) was then added portionwise over a 5-minute period. The mixture was stirred for 14 hr, filtered through celite, and concentrated to a syrup. The mixture was made basic with 2N NaOH and extracted with ether (3×50 ml). The combined extracts were washed with water, dried over magnesium sulfate, filtered, concentrated and chromatographed over silica gel (3% methanol/methylene chloride) to yield 5-nitro-2-(phenylmethyl)aminoindane: (1.18 g, 53%); M.S. (M+H)+ =269.

reactant | 5-Nitro-2-indanone | 8.36 mmol, 1.48 g | [N+](=O)([O-])C=1C=C2CC(CC2=CC1)=O | C9H7NO3
reactant | benzylamine | 41.8 mmol, 4.40 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 15.0 ml | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 16.7 mmol, 1.05 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 15 ml | CO | CH4O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 5-nitro-2-(phenylmethyl)aminoindane | [N+](=O)([O-])C=1C=C2CC(CC2=CC1)NCC1=CC=CC=C1 | C16H16N2O2
